US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide
The title compound was prepared from 2-pyridine-2-yl-ethylamine pyridine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 318/320 (MH+); HPLC Rf: 4.33 min.; HPLC purity: 97%.

reactant | 2-pyridine-2-yl-ethylamine pyridine | N1=CC=CC=C1.N1=C(C=CC=C1)CCN
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | N1=C(C=CC=C1)CCNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C15H12ClN3OS
